* File: /home/eng/s/sxv240035/cad/gf65/lib_cell/dff/HSPICE/dff.pex.sp.pex
* Created: Tue Nov 12 23:58:46 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_DFF%GND! 1 6 9 13 16 20 23 27 30 34 37 41 44 48 52 54 58 60 64 66 70
+ 76 77 79 80 82 84 86
c226 30 0 2.77541e-21
c227 20 0 8.51899e-20
r228 48 86 10
r229 46 70 0.0253885
r230 46 48 1.1657
r231 45 66 0.0305365
r232 44 70 0.0231967
r233 44 45 0.462441
r234 41 84 10
r235 39 66 0.0146924
r236 39 41 0.989002
r237 38 64 0.0305365
r238 37 66 0.0305365
r239 37 38 0.832588
r240 34 82 10
r241 32 64 0.0146924
r242 32 34 1.1657
r243 31 60 0.0305365
r244 30 64 0.0305365
r245 30 31 0.959476
r246 27 80 10
r247 25 60 0.0146924
r248 25 27 1.39782
r249 24 58 0.0256162
r250 23 60 0.0305365
r251 23 24 0.681218
r252 20 79 10
r253 18 58 0.0199415
r254 18 20 1.71634
r255 17 54 0.0256162
r256 16 58 0.0256162
r257 16 17 0.422609
r258 13 77 10
r259 11 54 0.0199415
r260 11 13 1.71634
r261 10 52 0.0305365
r262 9 54 0.0256162
r263 9 10 0.933711
r264 6 76 10
r265 4 52 0.0146924
r266 4 6 0.989002
r267 1 66 10
r268 1 60 30
r269 1 54 10
.ends

.subckt PM_DFF%A 2 4 7 9 11 14 23 25 28 30
c96 25 0 1.90372e-19
c97 11 0 2.10781e-19
c98 9 0 1.53937e-19
c99 4 0 3.37379e-19
r100 25 26 25
r101 23 25 0.365827
r102 20 28 30
r103 17 20 0.388606
r104 17 28 10
r105 14 17 1.33195
r106 14 30 10
r107 12 23 0.0479332
r108 12 14 0.539191
r109 7 26 33.0286
r110 4 11 36.8926
r111 3 9 26.6446
r112 3 4 87.3124
r113 2 9 26.6446
r114 1 7 3.82708
r115 1 2 29.1041
.ends

.subckt PM_DFF%B 4 10 12 13 15 16 18 20 22 23 30 33 34 36 39 50 53 56 57 58
c164 56 0 5.79901e-20
c165 53 0 2.32187e-19
c166 34 0 5.43719e-20
c167 30 0 1.98722e-19
c168 23 0 1.90372e-19
r169 53 54 25
r170 49 53 1.29316
r171 49 50 25
r172 46 50 45.374
r173 45 46 25
r174 42 45 0.476076
r175 42 57 30
r176 39 42 0.501133
r177 39 57 10
r178 37 56 0.051564
r179 37 39 0.438491
r180 36 56 0.051564
r181 35 36 0.0874363
r182 33 35 0.0479332
r183 33 34 0.204212
r184 30 58 10
r185 28 34 0.0485593
r186 28 30 0.962546
r187 25 26 25
r188 23 56 0.0013251
r189 23 25 0.63918
r190 16 26 8.86949
r191 16 18 36.8926
r192 13 54 17.7381
r193 12 13 3.86121
r194 11 22 36.8926
r195 11 12 30.1289
r196 10 22 36.8926
r197 9 20 26.6446
r198 9 10 84.1355
r199 4 26 5.07357
r200 3 15 26.6446
r201 3 4 63.7421
.ends

.subckt PM_DFF%!CLK 2 4 5 6 10 14 16 22 23 24 26 28 29 30 32 34 36 38 40 42 43
+ 46 50 54 56 61 62 63 64 68 72 75 81 82 93
c235 72 0 4.21843e-20
c236 68 0 1.98722e-19
c237 62 0 8.49288e-20
c238 56 0 1.62979e-19
c239 43 0 7.09295e-20
c240 38 0 2.44302e-19
c241 36 0 2.44302e-19
c242 16 0 1.36418e-19
c243 14 0 1.36418e-19
r244 79 80 25
r245 75 76 25
r246 72 80 31.417
r247 71 75 1.29316
r248 71 72 25
r249 69 93 4.5213
r250 68 69 25
r251 66 68 0.241795
r252 65 68 0.242847
r253 63 66 0.0509397
r254 63 64 0.699686
r255 61 65 0.0509397
r256 61 62 0.699686
r257 59 81 30
r258 56 59 0.501133
r259 56 81 10
r260 54 79 0.0239666
r261 54 59 1.33427
r262 53 64 0.0479332
r263 53 56 0.438491
r264 50 82 10
r265 48 62 0.0479332
r266 48 50 0.437239
r267 45 46 25
r268 43 79 0.0239666
r269 43 45 0.611382
r270 30 76 42.983
r271 29 46 49.7668
r272 28 30 3.86121
r273 27 42 36.8926
r274 27 28 101.762
r275 26 42 36.8926
r276 25 26 32.7934
r277 23 25 3.46412
r278 23 24 20.4959
r279 22 24 3.46412
r280 21 40 26.6446
r281 21 22 44.9884
r282 16 38 36.8926
r283 15 93 2.8098
r284 15 16 34.843
r285 14 93 2.8098
r286 13 36 26.6446
r287 13 14 34.9455
r288 9 34 26.6446
r289 9 10 28.7967
r290 5 10 3.46533
r291 5 6 21.1966
r292 4 29 3.86121
r293 3 32 36.8926
r294 3 4 98.5851
r295 2 32 36.8926
r296 1 6 3.46533
r297 1 2 52.3669
.ends

.subckt PM_DFF%CLK 2 8 10 12 14 20 22 25 26 27 28 29 31 33 35 37 39 41 44 47 52
+ 55 60 63 68 74 77 80 81 93 96 98 99 103 106 108 110 111 141
c293 141 0 2.72837e-19
c294 98 0 1.53521e-19
c295 81 0 2.77541e-21
c296 63 0 8.49288e-20
c297 55 0 3.63809e-20
c298 37 0 5.0999e-19
c299 35 0 3.15127e-19
c300 28 0 4.21843e-20
c301 12 0 8.51899e-20
r302 138 141 5.59461
r303 106 141 25
r304 106 108 1.7
r305 102 103 25
r306 98 99 25
r307 96 98 0.463648
r308 93 94 25
r309 91 102 0.02414
r310 91 93 0.647714
r311 89 110 30
r312 86 89 0.388606
r313 86 110 10
r314 83 86 1.67095
r315 83 111 10
r316 80 83 0.746941
r317 80 81 25
r318 78 96 0.0479351
r319 78 89 0.180702
r320 77 102 0.0237951
r321 77 80 0.231938
r322 74 75 25
r323 72 99 36.9143
r324 71 74 0.313208
r325 71 72 25
r326 67 71 0.871657
r327 67 68 25
r328 64 103 29.3714
r329 63 64 25
r330 59 63 0.354552
r331 59 60 25
r332 56 68 49.7668
r333 55 56 25
r334 51 55 0.455218
r335 51 52 25
r336 48 60 54.5714
r337 47 48 25
r338 43 47 0.46702
r339 43 44 25
r340 29 94 43.4278
r341 28 75 28.4144
r342 27 81 34.2857
r343 26 52 31.4726
r344 25 44 9.14286
r345 22 41 26.6446
r346 21 29 3.86121
r347 21 22 52.5719
r348 20 28 3.86121
r349 19 39 36.8926
r350 19 20 77.8843
r351 14 37 36.8926
r352 13 138 3.02272
r353 13 14 34.3306
r354 12 138 3.02272
r355 11 35 26.6446
r356 11 12 34.4331
r357 10 35 26.6446
r358 9 27 3.82708
r359 9 10 29.1041
r360 8 26 3.86121
r361 7 33 36.8926
r362 7 8 74.7074
r363 2 31 26.6446
r364 1 25 3.82708
r365 1 2 52.6744
.ends

.subckt PM_DFF%Q 2 12 14 15
c42 2 0 1.71669e-19
r43 14 15 10
r44 11 12 10
r45 9 11 0.388606
r46 9 12 30
r47 5 11 0.650915
r48 5 14 0.650915
r49 2 5 1.7
.ends

.subckt PM_DFF%C 4 10 12 16 17 19 21 23 24 31 35 38 46 49 50 51 53 58
c131 50 0 1.33921e-19
c132 24 0 6.05174e-20
c133 19 0 2.36633e-19
c134 16 0 8.31117e-20
r135 47 58 4.5213
r136 46 47 25
r137 44 49 0.00344812
r138 44 46 0.853642
r139 41 51 30
r140 38 41 0.388606
r141 38 51 10
r142 36 50 0.0441815
r143 36 38 0.342945
r144 35 50 0.0441815
r145 34 49 0.0441815
r146 34 35 0.17293
r147 31 53 10
r148 29 49 0.0441815
r149 29 31 0.513931
r150 26 27 25
r151 24 50 0.00344812
r152 24 26 0.494968
r153 17 27 9.01951
r154 17 19 36.8926
r155 12 23 36.8926
r156 11 58 2.8098
r157 11 12 42.119
r158 10 58 2.8098
r159 9 21 26.6446
r160 9 10 27.6694
r161 4 27 5.07019
r162 3 16 26.6446
r163 3 4 60.2579
.ends

.subckt PM_DFF%E 4 8 9 11 12 19 22 23 25 28 34 35 36
c82 9 0 1.33921e-19
r83 31 35 30
r84 28 31 0.388606
r85 28 35 10
r86 26 34 0.0441815
r87 26 28 0.342945
r88 25 34 0.0441815
r89 24 25 0.467197
r90 22 24 0.0485593
r91 22 23 0.256271
r92 19 36 10
r93 17 23 0.0485593
r94 17 19 0.399637
r95 14 15 25
r96 12 34 0.00344812
r97 12 14 0.652847
r98 9 15 9.01951
r99 9 11 36.8926
r100 4 15 5.07019
r101 3 8 26.6446
r102 3 4 60.2579
.ends

.subckt PM_DFF%VDD! 1 6 12 16 22 26 32 36 42 46 55 59 61 65 69 74 75 77 79 81
r233 50 81 30
r234 46 50 0.388606
r235 46 81 10
r236 44 69 0.0157854
r237 44 50 1.76953
r238 43 65 0.0294448
r239 42 69 0.0294448
r240 42 43 0.918181
r241 40 79 30
r242 36 40 0.388606
r243 36 79 10
r244 34 65 0.0157854
r245 34 40 2.24154
r246 33 61 0.0294448
r247 32 65 0.0294448
r248 32 33 1.1737
r249 30 77 30
r250 26 30 0.388606
r251 26 77 10
r252 24 61 0.0157854
r253 24 30 2.24154
r254 23 59 0.0294448
r255 22 61 0.0294448
r256 22 23 1.03466
r257 20 75 30
r258 16 20 0.388606
r259 16 75 10
r260 14 59 0.0157854
r261 14 20 1.73244
r262 13 55 0.0294448
r263 12 59 0.0294448
r264 12 13 0.836474
r265 10 74 30
r266 6 10 0.388606
r267 6 74 10
r268 4 55 0.0157854
r269 4 10 1.40675
r270 1 65 15
r271 1 61 30
r272 1 55 15
.ends

.subckt PM_DFF%D 4 6 9 10 12 14 17 19
r42 17 22 25
r43 17 19 1.7
r44 9 22 4.17508
r45 9 10 0.786294
r46 6 14 36.8926
r47 5 10 5.07743
r48 5 6 37.5074
r49 4 10 5.07743
r50 3 12 26.6446
r51 3 4 34.4331
.ends

.subckt PM_DFF%R 4 6 8 12 14 15 16 17 18 20 22 24 26 29 32 37 40 41 48 53 56 61
+ 63
c166 61 0 6.07449e-21
c167 53 0 4.21843e-20
c168 37 0 1.13114e-19
c169 32 0 5.79901e-20
c170 15 0 4.82974e-20
r171 61 66 25
r172 61 63 1.7
r173 56 57 25
r174 52 56 0.647714
r175 52 53 25
r176 49 53 24.4664
r177 48 49 25
r178 44 48 0.871657
r179 44 45 25
r180 41 45 39.9429
r181 40 41 25
r182 36 40 0.421498
r183 36 37 25
r184 33 37 43.3722
r185 32 33 25
r186 28 32 0.455218
r187 28 29 25
r188 18 57 18.3498
r189 17 29 7.17309
r190 15 66 4.17508
r191 15 16 0.786294
r192 14 18 3.86121
r193 13 26 36.8926
r194 13 14 125.64
r195 12 26 36.8926
r196 11 24 26.6446
r197 11 12 84.1355
r198 8 17 3.86121
r199 7 22 36.8926
r200 7 8 50.8298
r201 6 22 36.8926
r202 5 16 5.07743
r203 5 6 37.5074
r204 4 16 5.07743
r205 3 20 26.6446
r206 3 4 34.4331
.ends

