* File: /home/eng/s/sxv240035/cad/gf65/inv_LVS/inv.pex.sp.pex
* Created: Thu Oct 10 13:03:02 2024
* Program "Calibre xRC"
* Version "v2013.2_18.13"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INV%GND! 1 6 11 19
r22 9 14 0.0378803
r23 9 11 0.36529
r24 6 19 15
r25 4 14 0.00816527
r26 4 6 0.858819
r27 1 14 30
.ends

.subckt PM_INV%OUT 5 12 14 15
r27 14 15 15
r28 11 12 10
r29 9 11 0.367355
r30 9 12 30
r31 3 11 1.35738
r32 3 14 1.19574
r33 3 5 1.7
.ends

.subckt PM_INV%VDD! 1 6 12 14 20
r21 12 16 0.0429052
r22 12 14 0.02882
r23 10 20 30
r24 6 10 0.367355
r25 6 20 10
r26 4 16 0.00426319
r27 4 10 0.317762
r28 1 16 30
.ends

.subckt PM_INV%IN 7 8 10 13 15
r34 13 18 25
r35 13 15 1.7
r36 8 18 8.87788
r37 8 10 87.874
r38 5 18 9.76913
r39 5 7 82.9921
.ends

